US06395753B1
Synthesis of ethyl 4-(3,4,5-trimethoxyphenyl)benzoate:
3,4,5-Trimethoxyphenylboronic acid (2.01 g) and ethyl 4-bromobenzoate (2.29 g) were condensed in the same manner as described in Preparation Example 1 to give the title compound.

reactant | 3,4,5-Trimethoxyphenylboronic acid | 2.01 g | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
reactant | ethyl 4-bromobenzoate | 2.29 g | BrC1=CC=C(C(=O)OCC)C=C1 | C9H9BrO2
product | ethyl 4-(3,4,5-trimethoxyphenyl)benzoate | COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)OCC)C=C1 | C18H20O5
